US07534797B2
trans-2-{4-[8-Amino-1-(2-phenylquinolin-7-yl)-imidazo[1,5-a]pyrazin-3-yl]-cyclohexylmethyl}-isoindole-1,3-dione
trans-{4-[8-Amino-1-(2-phenylquinolin-7-yl)-imidazo[1,5-a]pyrazin-3-yl]-cyclohexyl}-methanol (290 mg, 0.47 mmol), phthalimide (82 mg, 0.56 mmol), and resin-bound triphenylphosphine (PS-Ph3P [Argonaut, 2.16 mmol/g]) (324 mg) were dissolved in 2.5 mL of THF, evacuated, placed under nitrogen atmosphere and charged with DIAD (0.11 mL, 0.56 mmol). After stirring for 16 h, the resin was filtered, washed with CH2Cl2 (5×) and concentrated to an orange-colored oil. The crude material was purified by silica gel column chromatography [Jones Flashmaster, 10 g/70 mL cartridge, eluting with 1% MeOH/CH2Cl2 to 2% ˜7N NH3 in MeOH/CH2Cl2] to afford the desired product as a yellow solid; 1H NMR (CDCl3, 400MHz) δ 1.17-1.29 (m, 2H), 1.60-1.61 (m, 1H), 1.87-2.07 (m, 4H), 2.12-2.23 (m, 2H), 2.92-3.02 (m, 1H), 3.64 (d, 2H, J=6.8 Hz), 5.25 (s, 2H), 7.11 (d, 1H, J=5.6 Hz), 7.24-7.26 (m, 1H), 7.45-7.49 (m, 1H), 7.52-7.56 (m, 2H), 7.72-7.75 (m, 2H), 7.86-7.95 (m, 5H), 8.17-8.20 (m, 2H), 8.25 (d, 1H, J=8.8 Hz), 8.38-8.39 (m, 1H); MS (ES+): m/z 579.0 [MH+]; HPLC: tR=2.9 min (Micromass Platform II, nonpolar—5 min).

reactant | trans-{4-[8-Amino-1-(2-phenylquinolin-7-yl)-imidazo[1,5-a]pyrazin-3-yl]-cyclohexyl}-methanol | 0.47 mmol, 290 mg | NC=1C=2N(C=CN1)C(=NC2C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2)[C@@H]2CC[C@H](CC2)CO | C28H27N5O
reactant | phthalimide | 0.56 mmol, 82 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 324 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Ph3P | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 0.56 mmol, 0.11 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | trans-2-{4-[8-Amino-1-(2-phenylquinolin-7-yl)-imidazo[1,5-a]pyrazin-3-yl]-cyclohexylmethyl}-isoindole-1,3-dione | NC=1C=2N(C=CN1)C(=NC2C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2)[C@@H]2CC[C@H](CC2)CN2C(C1=CC=CC=C1C2=O)=O | C36H30N6O2
